US06545049B1
To a solution of 6,6,9,9-tetramethyl-3,4,6,7-hexahydro-1H-benzo[g]quinolin-2-one (1.0 g, 3.9 mmol, prepared by Friedel-Crafts alkylation/annulation of 2-oxo-1,2,3,4-tetrahydroquinoline with 2,5-dichloro-2,5-dimethylhexane in the presence of aluminum trichloride at ambient temperature in dichloromethane) in THF (10 mL) at ambient temperature was added LiAlH4 (11.7 mmol). The reaction mixture was heated to 80° C. and allowed to stir for 30 minutes. The reaction mixture was poured into aqueous saturated sodium potassium tartrate (100 mL), extracted with EtOAc (100 mL), dried (MgSO4), and concentrated to give 6,6,9,9-tetramethyl-1,2,3,4,6,7,8,9-octahydrobenzo[g]quinoline 978 mg (99%): 1H NMR (400 MHz, CDCl3) δ 6.88(s, 1H ArH), 6.41(s, 1H, ArH), 3.26(t, 2H, J=6.2 Hz, ring CH2), 2.71(t, 2H, J=4.0 Hz, ring CH2), 1.92(m, 2H, ring CH2), 1.63(s, 4H, 2CH2), 1.23(s, 12H, 4CH3).

reactant | 2-oxo-1,2,3,4-tetrahydroquinoline | O=C1NC2=CC=CC=C2CC1 | C9H9NO
reactant | 2,5-dichloro-2,5-dimethylhexane | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | LiAlH4 | 11.7 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium potassium tartrate | 100 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6,6,9,9-tetramethyl-1,2,3,4,6,7,8,9-octahydrobenzo[g]quinoline | 978 mg, 99% | CC1(CCC(C2=C1C=C1CCCNC1=C2)(C)C)C | C17H25N
